US07902367B2
Step 88b) 1-Benzyloxycarbonyl-3-[2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]ethenyl]piperidine
In an argon atmosphere, a solution of 1.59 mol/Ln-butyl lithium in hexane (2.03 mL, 3.23 mmol), chilled to −78° C., was added to a suspension of [2-(4-chlorophenyl)-4-methylthiazol-5-yl]methyltriphenylphosphonium iodide (1.80 g, 2.94 mmol) in tetrahydrofuran (20 mL). The reaction mixture was stirred for 1 hour as it warmed from −78° C. to room temperature. Subsequently, the mixture was chilled again to −78° C. and 1-benzyloxycarbonyl-3-formylpiperidine (727 mg, 2.94 mmol) in tetrahydrofuran (5 mL) was added. The mixture was stirred at −78° C. for 1 hour and at room temperature for the subsequent 6 hours. Subsequently, water was added and the mixture was extracted with ethyl acetate and washed with brine. The washed product was dried over magnesium sulfate and the solvent was evaporated. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=20:1->5:1) gave 1.16 g (87%) of the desired compound as a yellow oil.

reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | 3.23 mmol, 2.03 mL | CCCCCC | C6H14
reactant | [2-(4-chlorophenyl)-4-methylthiazol-5-yl]methyltriphenylphosphonium iodide | 2.94 mmol, 1.80 g | [I-].ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-benzyloxycarbonyl-3-formylpiperidine | 2.94 mmol, 727 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)C=O | C14H17NO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-Benzyloxycarbonyl-3-[2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]ethenyl]piperidine | 1.16 g, 87% | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)C=CC1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C25H25ClN2O2S
